* SPICE export by:  S-Edit 2019.2.3
* Export time:      Mon Jan 23 15:30:06 2023
* Design path:      /home/vlsilab/pes283/pes283/lib.defs
* Library:          pes283
* Cell:             Exp1_Inverter
* Testbench:        Spice
* View:             schematic
* Export as:        subcircuit definition
* Export mode:      hierarchical
* Exclude empty:    no
* Exclude .model:   no
* Exclude .hdl:     no
* Exclude .end:     no
* Expand paths:     no
* Wrap lines:       no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits *****************
.subckt Exp1_Inverter In Out Gnd Vdd 
MMn1 Out In Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=5900 $y=3300 $w=400 $h=600
MMp1 Out In Vdd Vdd PMOS25 w=3.75u l=250n m=1 ad=2.4375p pd=8.8u as=2.4375p ps=8.8u nrd=173.33333m nrs=173.33333m $ $x=5900 $y=4500 $w=400 $h=600
.ends



