* File: Exp4_NAND.pex.netlist.pex
* Created: Mon Feb  6 15:39:43 2023
* Program "Calibre xRC"
* Version "v2021.3_23.13"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_Exp4_NAND_Gnd 3 7 9 13 17 23 27 44 52 61
c56 27 0 0.043276f
c57 17 0 0.0418335f
c58 7 0 0.00126711f
c59 3 0 1.5435e-19
r60 59 60 0.224157
r61 54 61 0.203768
r62 53 60 0.0480337
r63 52 61 0.0461061
r64 52 53 1.16455
r65 49 60 0.282125
r66 46 59 0.282125
r67 42 59 0.0480337
r68 42 44 0.645787
r69 27 54 1.75222
r70 23 27 0.5
r71 17 46 1.65933
r72 13 17 0.5
r73 9 23 0.215909
r74 9 13 0.215909
r75 7 49 1.65933
r76 5 7 0.5
r77 3 5 0.0623333
.ends

.subckt PM_Exp4_NAND_A 1 3 16 19
c25 19 0 2.4037e-20
r26 19 22 0.105556
r27 14 22 1.1
r28 14 16 0.159091
r29 10 16 0.110077
r30 7 16 0.110077
r31 3 7 2.03
r32 1 10 1.915
.ends

.subckt PM_Exp4_NAND_N_1 1 3 5 6 10 16 17
c33 6 0 1.43764e-19
c34 3 0 1.43764e-19
r35 16 18 0.219757
r36 16 17 4.86488
r37 13 17 0.21246
r38 10 18 1.43556
r39 8 10 0.5
r40 6 8 0.0623333
r41 5 13 1.52844
r42 3 5 0.5
r43 1 3 0.0625
.ends

.subckt PM_Exp4_NAND_Vdd 3 9 14 18 19 22 28 33 37 38 43 45 53 54 66
c39 38 0 0.00126711f
c40 37 0 0.0418335f
c41 33 0 1.43764e-19
c42 19 0 0.00126711f
c43 18 0 0.0418335f
c44 14 0 1.57214e-19
r45 65 66 0.13457
r46 63 64 0.13457
r47 58 66 0.389636
r48 55 65 0.389636
r49 54 64 0.0288364
r50 53 65 0.0288364
r51 53 54 0.699123
r52 50 64 0.389636
r53 47 63 0.389636
r54 43 63 0.0288364
r55 43 45 0.509444
r56 38 58 2.698
r57 37 55 2.698
r58 35 38 0.5
r59 33 35 0.0623333
r60 28 37 0.5
r61 22 28 0.215909
r62 19 50 2.79089
r63 18 47 2.79089
r64 16 19 0.5
r65 14 16 0.0623333
r66 9 18 0.5
r67 3 9 0.215909
.ends

.subckt PM_Exp4_NAND_Out 2 4 6 8 10 13 15 17 24 25 31 34
c50 15 0 1.43764e-19
c51 10 0 1.43764e-19
c52 4 0 1.43764e-19
r53 29 34 0.156418
r54 29 31 0.0168889
r55 26 34 0.156418
r56 24 34 0.0456287
r57 24 25 5.68253
r58 21 25 0.212396
r59 17 26 2.19556
r60 15 17 0.5
r61 13 15 0.0625
r62 12 31 1.216
r63 10 12 0.5
r64 8 10 0.0625
r65 6 21 1.14
r66 4 6 0.5
r67 2 4 0.0625
.ends

.subckt PM_Exp4_NAND_B 1 3 15 17 18 21
r31 21 24 0.105556
r32 17 24 1.1
r33 17 18 0.147783
r34 14 15 0.00318082
r35 14 18 1.43506
r36 10 15 0.149134
r37 7 15 0.149134
r38 3 7 1.355
r39 1 10 2.755
.ends

