* SPICE export by:  S-Edit 2019.2.3
* Export time:      Mon Feb  6 15:39:37 2023
* Design path:      /home/vlsilab/pes283/pes283/lib.defs
* Library:          pes283
* Cell:             Exp4_NAND
* Testbench:        Spice
* View:             schematic
* Export as:        subcircuit definition
* Export mode:      hierarchical
* Exclude empty:    no
* Exclude .model:   no
* Exclude .hdl:     no
* Exclude .end:     no
* Expand paths:     no
* Wrap lines:       no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits *****************
.subckt Exp4_NAND A B Out Gnd Vdd 
MMn1 N_1 A Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=4600 $y=2400 $w=400 $h=600
MMn2 N_1 B Out Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=5000 $y=4000 $w=400 $h=600 $r=180
MMp1 Out A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=3600 $y=5600 $w=400 $h=600
MMp2 Out B Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=5700 $y=5600 $w=400 $h=600 $m
.ends



