* File: Exp4_NOR.pex.netlist.pex
* Created: Mon Feb 13 14:36:51 2023
* Program "Calibre xRC"
* Version "v2021.3_23.13"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_Exp4_NOR_Gnd 4 6 12 17 21 27 31 32 54 63 67
c57 32 0 0.00126711f
c58 31 0 0.0418335f
c59 21 0 1.43764e-19
c60 17 0 0.00748324f
c61 16 0 0.0603467f
c62 6 0 1.63464e-19
r63 65 66 0.158964
r64 63 65 0.119602
r65 56 67 0.541999
r66 55 66 0.0340637
r67 54 67 0.08647
r68 54 55 1.23159
r69 51 66 0.353832
r70 48 65 0.353832
r71 32 56 1.44822
r72 31 56 1.44822
r73 27 31 0.5
r74 23 32 0.5
r75 21 23 0.0623333
r76 17 51 1.44822
r77 16 48 1.44822
r78 12 16 0.5
r79 8 17 0.5
r80 6 8 0.0623333
r81 4 27 0.215909
r82 4 12 0.215909
.ends

.subckt PM_Exp4_NOR_A 1 2 14 17
c23 17 0 1.97006e-20
r24 17 20 0.105556
r25 12 20 1.1
r26 12 14 0.159091
r27 8 14 0.110077
r28 5 14 0.110077
r29 2 5 1.75
r30 1 8 4.085
.ends

.subckt PM_Exp4_NOR_Vdd 3 9 13 15 19 22 28 32 44 45 46 51 53 55
c34 44 0 3.15704e-20
c35 32 0 0.043276f
c36 19 0 0.00730088f
c37 15 0 3.86241e-19
c38 13 0 0.0598036f
r39 53 54 0.358592
r40 51 53 0.0160563
r41 46 48 0.212352
r42 46 55 4.95727
r43 45 54 0.0802817
r44 44 55 0.306007
r45 44 45 0.664732
r46 41 54 0.181085
r47 38 51 0.181085
r48 32 48 2.82044
r49 28 32 0.5
r50 22 28 0.215909
r51 19 41 2.33489
r52 17 19 0.5
r53 15 17 0.0623333
r54 13 38 2.33489
r55 9 13 0.5
r56 3 9 0.215909
.ends

.subckt PM_Exp4_NOR_B 1 2 14 17
c25 14 0 3.24099e-20
r26 17 20 0.105556
r27 12 20 1.1
r28 12 14 0.159091
r29 8 14 0.110077
r30 5 14 0.110077
r31 2 5 2.665
r32 1 8 3.17
.ends

.subckt PM_Exp4_NOR_N_1 2 4 6 8 12 16 19 20
c32 20 0 1.21474e-19
c33 8 0 1.43764e-19
c34 6 0 2.74609e-19
c35 4 0 1.43203e-19
r36 19 21 0.13486
r37 19 20 7.22884
r38 15 20 0.212537
r39 15 16 1.33459
r40 12 21 1.39333
r41 10 12 0.5
r42 8 10 0.0623333
r43 6 16 0.0434286
r44 4 6 0.5
r45 2 4 0.0625
.ends

.subckt PM_Exp4_NOR_Out 2 4 6 7 9 11 12 14 16 23 24 32
c45 23 0 1.21474e-19
c46 14 0 1.43764e-19
c47 9 0 1.43764e-19
c48 6 0 3.24099e-20
c49 4 0 1.43764e-19
r50 28 32 0.13948
r51 25 32 0.13948
r52 23 32 0.0609838
r53 23 24 9.185
r54 20 24 0.214287
r55 16 25 1.57489
r56 14 16 0.5
r57 12 14 0.0625
r58 11 20 1.57489
r59 9 11 0.5
r60 7 9 0.0625
r61 6 28 3.496
r62 4 6 0.5
r63 2 4 0.0625
.ends

