* SPICE export by:  S-Edit 2019.2.3
* Export time:      Mon Feb 13 14:36:45 2023
* Design path:      /home/vlsilab/pes283/pes283/lib.defs
* Library:          pes283
* Cell:             Exp4_NOR
* Testbench:        Spice
* View:             schematic
* Export as:        subcircuit definition
* Export mode:      hierarchical
* Exclude empty:    no
* Exclude .model:   no
* Exclude .hdl:     no
* Exclude .end:     no
* Expand paths:     no
* Wrap lines:       no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits *****************
.subckt Exp4_NOR A B Out Gnd Vdd 
MMn1 Out A Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=3300 $y=2600 $w=400 $h=600
MMn2 Out B Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=5900 $y=2600 $w=400 $h=600 $m
MMp1 N_1 A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=4300 $y=5200 $w=400 $h=600
MMp2 Out B N_1 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m $ $x=4700 $y=4200 $w=400 $h=600 $m
.ends



