* File: Exp1_Inverter.pex.netlist.pex
* Created: Mon Jan 30 14:11:35 2023
* Program "Calibre xRC"
* Version "v2021.3_23.13"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_Exp1_Inverter_Vdd 3 9 16 21 23 27 33 40
c25 33 0 0.00131436f
c26 27 0 0.106747f
c27 16 0 8.39533e-20
r28 39 40 0.288087
r29 33 36 1.09778
r30 31 40 0.23182
r31 31 36 2.09422
r32 27 30 1.35111
r33 25 39 0.23182
r34 25 30 1.96756
r35 21 39 0.0617329
r36 21 23 0.279856
r37 18 36 0.5
r38 18 33 0.333333
r39 16 18 0.025
r40 13 30 0.5
r41 9 27 0.333333
r42 3 13 0.363636
r43 3 9 0.363636
.ends

.subckt PM_Exp1_Inverter_Gnd 4 7 13 21 25 29
c29 25 0 0.00131404f
c30 21 0 0.0418335f
c31 7 0 1.9102e-19
r32 31 32 0.261639
r33 27 32 0.0560656
r34 27 29 0.308984
r35 23 32 0.250912
r36 23 25 0.811511
r37 19 31 0.250912
r38 19 21 0.811511
r39 13 21 0.5
r40 9 25 0.5
r41 7 9 0.0625
r42 4 13 0.215455
.ends

.subckt PM_Exp1_Inverter_Out 1 3 6 8 12 15
c19 12 0 2.94305e-20
c20 3 0 1.43764e-19
r21 17 19 1.09778
r22 15 17 1.976
r23 12 15 1.43049
r24 8 19 0.5
r25 8 17 0.333333
r26 6 8 0.025
r27 3 12 0.5
r28 1 3 0.0625
.ends

.subckt PM_Exp1_Inverter_In 1 3 6 11 14
c25 14 0 3.7017e-20
c26 11 0 2.94305e-20
r27 14 17 0.105556
r28 9 17 1.1
r29 9 11 0.175
r30 4 11 0.110077
r31 4 6 2.645
r32 1 11 0.110077
r33 1 3 1.015
.ends

